US07569578B2
(±)-Benzyl 3-(7-methyl-1H-indazol-5-yl)-1-(neopentylamino)-1-oxopropan-2-ylcarbamate
2-(Benzyloxycarbonyl)-3-(7-methyl-1H-indazol-5-yl)propanoic acid (0.2 g, 0.57 mmol), hydroxybenzotriazole (84 mg, 0.62 mmol), 1-(3-dimethyl aminopropyl)-3-ethyl carbodiimide hydrochloride (0.12 g, 0.62 mmol), and 2,2-dimethylpropan-1-amine (74 μL, 0.62 mmol) were combined in ethyl acetate (6.0 mL). To this solution was added triethylamine (0.24 mL, 1.7 mmol) and the reaction mixture stirred at 40° C. for 2 h. After cooling to room temperature, the mixture was diluted with ethyl acetate, washed with 5% citric acid (2×), brine (2×), dried over sodium sulfate, and concentrated to afford 0.21 g (88%). Mass spec.: 423.06 (MH)+.

reactant | 2-(Benzyloxycarbonyl)-3-(7-methyl-1H-indazol-5-yl)propanoic acid | 0.57 mmol, 0.2 g | C(C1=CC=CC=C1)OC(=O)C(C(=O)O)CC=1C=C2C=NNC2=C(C1)C | C19H18N2O4
reactant | hydroxybenzotriazole | 0.62 mmol, 84 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 2,2-dimethylpropan-1-amine | 0.62 mmol, 74 μL | CC(CN)(C)C | C5H13N
reactant | triethylamine | 1.7 mmol, 0.24 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 6.0 mL | C(C)(=O)OCC | C4H8O2
product | (±)-Benzyl 3-(7-methyl-1H-indazol-5-yl)-1-(neopentylamino)-1-oxopropan-2-ylcarbamate | CC=1C=C(C=C2C=NNC12)CC(C(=O)NCC(C)(C)C)NC(OCC1=CC=CC=C1)=O | C24H30N4O3
